US05149825
Preparation of 2-azabicyclo[2.2.1]hept-5-ene-2-acetamide
A solution of glycinamide hydrochloride 22.1 g, 0.20 mol) in water is treated with 37% formalin (23.0 g, 0.28 mol formaldehyde) cooled to 10° C., treated with cyclopentadiene (26.4 g, 0.40 mol), stirred for 3 hours at 5°-10° C., and diluted with methylene chloride. The phases are separated. The aqueous phase is extracted with methylene chloride and basified with 10% NaOH to pH 12 with cooling. The aqueous basic phase is extracted with methylene chloride. The methylene chloride extracts of the basic aqueous phase are combined and concentrated in vacuo to give the title product (N-carboxamidomethylazanorbornene) as a solid, 17.6 g, mp 74°-96° C. which can be purified by sublimation at 120° C./0.55 torr. The compound is identified by NMR and mass spectral analyses.

reactant | glycinamide hydrochloride | 0.20 mol, 22.1 g | Cl.NCC(=O)N
reactant | formalin | 0.28 mol, 23.0 g | C=O | CH2O
reactant | cyclopentadiene | 0.40 mol, 26.4 g | C1=CC=CC1 | C5H6
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-azabicyclo[2.2.1]hept-5-ene-2-acetamide | C12N(CC(C=C1)C2)CC(=O)N | C8H12N2O
